US09403798B2
Ethyl 2-[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetate
To a chloroform solution (2 mL) of 3-(trifluoromethyl)-1H-pyrazole (68 mg, 0.50 mmol), potassium carbonate (104 mg, 0.75 mmol) and ethyl bromoacetate (100 mg, 0.60 mmol) were added and the resultant mixture was stirred at 70° C. for 2 hours. To the reaction solution, adequate amount of sodium iodide was added and the resultant mixture was further stirred for 1 day. To the reaction solution, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (147 mg, 0.77 mmol), 1-hydroxybenzotriazole (catalytic amount) and ethanol (500 μL) were added and the resultant mixture was stirred for 2 hours. After completion of the reaction, water was added to the reaction solution and extraction with chloroform from the resultant mixture was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a crude product of the title compound. The crude product was used in the next reaction as it was.

reactant | 3-(trifluoromethyl)-1H-pyrazole | 0.50 mmol, 68 mg | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | potassium carbonate | 0.75 mmol, 104 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.60 mmol, 100 mg | BrCC(=O)OCC | C4H7BrO2
reactant | sodium iodide | [I-].[Na+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.77 mmol, 147 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | ethanol | 500 μL | C(C)O | C2H6O
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-[3-(trifluoromethyl)-1H-pyrazol-1-yl]acetate | FC(C1=NN(C=C1)CC(=O)OCC)(F)F | C8H9F3N2O2
